US05030727
Methyl 5H-thiazolo-(2,3-b)-quinazolin-5-one-8-carboxylate
19.4 g of 4-carbomethoxyanthranilamide and 12 g of 2-chlorothiazole were stirred for 4 hours at 150° C. After working up in the conventional manner there was obtained 20.3 g (78%) of the above compound; m.p. 228°-230° C.

reactant | 4-carbomethoxyanthranilamide | 19.4 g | C(=O)(OC)C=1C=C(C(C(=O)N)=CC1)N | C9H10N2O3
reactant | 2-chlorothiazole | 12 g | ClC=1SC=CN1 | C3H2ClNS
product | Methyl 5H-thiazolo-(2,3-b)-quinazolin-5-one-8-carboxylate | 20.3 g, 78% | S1C=CN2C1=NC1=CC(=CC=C1C2=O)C(=O)OC | C12H8N2O3S
